US08198456B2
To chilled tetrahydrofuran (600 mL) at −78° C., under Argon, was added 200 mL of a 1.7M solution of tert-butyllithium in n-pentane. After 15 minutes at −78° C., a solution of 22.4 g (106.13 mmol) 5-bromo-3-methyl-1H-indazole (commercially available, or see WO 2006/081230, 68-69) in 300 mL tetrahydrofuran was added dropwise at such a rate that the temperature of the solution did not exceed −70° C. The mixture was stirred for 30 minutes before 24.5 mL N,N-dimethylformamide was added dropwise. After 20 minutes the cooling bath was removed and stirring continued for 1 hour before 41 mL water was added carefully. A further 201 mL water was added and the mixture was extracted with ethyl acetate. The organic extract was washed with saturated sodium chloride solution and dried over sodium sulfate. The solvents were distilled off to give 18.5 g crude 3-methyl-1H-indazole-5-carbaldehyde, which was used without purification. 1H-NMR (DMSO-d6): δ=13.13 (br s, 1H), 10.01 (s, 1H), 8.40 (s, 1H), 7.81 (d, 1H), 7.58 (d, 1H), 2.56 (s, 3H) ppm. MS (ES+): 161.34 (M++1, 100%).

reactant | tert-butyllithium | C(C)(C)(C)[Li]
reactant | 5-bromo-3-methyl-1H-indazole | 106.13 mmol, 22.4 g | BrC=1C=C2C(=NNC2=CC1)C | C8H7BrN2
reactant | N,N-dimethylformamide | 24.5 mL | CN(C=O)C | C3H7NO
solvent | n-pentane | CCCCC | C5H12
solvent | tetrahydrofuran | 300 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 600 mL | O1CCCC1 | C4H8O
product | 3-methyl-1H-indazole-5-carbaldehyde | 18.5 g | CC1=NNC2=CC=C(C=C12)C=O | C9H8N2O
